US07893056B2
To a solution of (3S)-1-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)-4,4-dimethyl-3-pyrrolidinol (0.125 g, 0.490 mmol) in DMF (3 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.1246 g, 0.408 mmol), N-methylmorpholine (0.225 ml, 2.046 mmol), 1-hydroxy-7-azabenzotriazole (67 mg, 0.492 mmol), and EDC (94 mg, 0.490 mmol). The mixture was stirred overnight and then purified directly by Gilson RPLC to give [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-6-[(4S)-4-hydroxy-3,3-dimethyl-1-pyrrolidinyl]-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.1606 g, 73% yield) as a purple oil. LCMS: (M+H)+: 543.3.

reactant | (3S)-1-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)-4,4-dimethyl-3-pyrrolidinol | 0.490 mmol, 0.125 g | FC=1C(=NC(=NC1NN)C)N1C[C@H](C(C1)(C)C)O | C11H18FN5O
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.408 mmol, 0.1246 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | N-methylmorpholine | 2.046 mmol, 0.225 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 0.492 mmol, 67 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.490 mmol, 94 mg
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-6-[(4S)-4-hydroxy-3,3-dimethyl-1-pyrrolidinyl]-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.1606 g, 73% yield | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1CC([C@@H](C1)O)(C)C)C | C28H39FN6O4
